US05500406
3.76 g (40.0 mmol) of phenol was dissolved in 40 ml of dry tetrahydrofuran, and 5.66 g (40.0 mmol) of chlorosulfonyl isocyanate was dropwise added thereto at -50° C. The reaction temperature was raised to room temperature, and then the reaction mixture was cooled again to -50° C. Then, 10.6 g (44 mmol) of 2-imino-3-n-propoxythiazolidine hydrobromide suspended in 20 ml of dry acetonitrile containing 8.08 g (80 mmol) of triethylamine, was added thereto. The reaction temperature was gradually raised to room temperature, and the mixture was further stirred at the same temperature for 10 minutes. Then, the solvent was distilled off under reduced pressure, and then water was added to the obtained residue. The mixture was extracted three times with 70 ml of chloroform. The chloroform layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. To the obtained residue, ethyl ether and a small amount of acetonitrile were added for crystallization. Then, the crystals were collected by filtration to obtain 14 g of phenyl N-(3-n-propoxythiazolidine-2 -sulfonylimino)carbamate. Then, 0.72 g (2.0 mmol) of the obtained carbamate was dissolved in 30 ml of dry dioxane, and 0.23 g (1.5 mmol) of 2-amino-4,6-dimethoxytriazine was added thereto. The mixture was refluxed under heating for 4 hours. The solvent was distilled off under reduced pressure, and ethyl ether and a small amount of acetonitrile were added for crystallization. Then, the crystals were collected by filtration to obtain 0.3 g of desired 1-(3-n-propoxythiazolidine-2-sulfonylimino)-3-(4,6-dimethoxytriazin-2-yl)urea.

reactant | phenol | 40.0 mmol, 3.76 g | C1(=CC=CC=C1)O | C6H6O
reactant | chlorosulfonyl isocyanate | 40.0 mmol, 5.66 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-imino-3-n-propoxythiazolidine hydrobromide | 44 mmol, 10.6 g | Br.N=C1SCCN1OCCC
reactant | acetonitrile | 80 mmol, 20 ml, 8.08 g | C(C)#N | C2H3N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | phenyl N-(3-n-propoxythiazolidine-2 -sulfonylimino)carbamate | 14 g | C(CC)ON1C(SCC1)S(=O)(=O)N=NC(OC1=CC=CC=C1)=O | C13H17N3O5S2
